US04889953
2-O-Benzyl-1-O-[2-[2-(2-hydroxyethoxy)ethoxy]ethyl]-3-O-octadecylglycerol
7.2 g (10 millimole) of 1-O-octadecyl-3-O-[2-[2-(2-trityloxyethoxy)ethoxy]ethyl]glycerol, 2.5 g (20 millimole) of benzyl chloride, 4 g (50 millimole) of 50% sodium hydroxide, 160 mg (0.5 millimole) of cetyltrimethylammonium chloride were treated by following a procedure similar to that described in Working Example 10, to give 5.1 g (88%) of the above-captioned compound.

reactant | 1-O-octadecyl-3-O-[2-[2-(2-trityloxyethoxy)ethoxy]ethyl]glycerol | 10 millimole, 7.2 g | C(CCCCCCCCCCCCCCCCC)OCC(O)COCCOCCOCCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C46H70O6
reactant | benzyl chloride | 20 millimole, 2.5 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium hydroxide | 50 millimole, 4 g | [OH-].[Na+]
catalyst | cetyltrimethylammonium chloride | 0.5 millimole, 160 mg | [Cl-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
product | 2-O-Benzyl-1-O-[2-[2-(2-hydroxyethoxy)ethoxy]ethyl]-3-O-octadecylglycerol | 5.1 g, 88% | C(C1=CC=CC=C1)OC(COCCOCCOCCO)COCCCCCCCCCCCCCCCCCC | C34H62O6
